US09302988B2
Step 2: tert-Butyl 3,3-dimethylbutyl(methyl)carbamate
To a solution of tert-butyl 3,3-dimethylbutylcarbamate (1.72 g, 8.56 mmol) in dry DMF (20 mL) was portionwise added 60% NaH in mineral oil (685 mg, 17.12 mmol) under a N2 atmosphere. After 30 min, MeI (2.68 mL, 42.8 mmol) was added dropwise with ice cooling. The mixture was stirred at room temperature for 2 d, poured in ice-H2O and extracted with Et2O (30 mL). The organic layer was dried (Na2SO4) and concentrated to yield the desired product (1.43 g, 63%, 80% purity) as a colourless oil.

reactant | tert-butyl 3,3-dimethylbutylcarbamate | 8.56 mmol, 1.72 g | CC(CCNC(OC(C)(C)C)=O)(C)C | C11H23NO2
reactant | NaH | [H-].[Na+]
reactant | MeI | 42.8 mmol, 2.68 mL | CI | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3,3-dimethylbutyl(methyl)carbamate | 1.43 g | CC(CCN(C(OC(C)(C)C)=O)C)(C)C | C12H25NO2
